US08871753B2
Step D: 3-[(5-Chloro-4-{[3-(2-hydroxyethoxy)phenyl]amino}pyrimidin-2-yl)amino]phenol
The desired compound was prepared according to the procedure of Example D5, step B, using 2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenoxy}ethanol and 3-aminophenol as the starting materials in 34% yield. LCMS for C18H18ClN4O3 (M+H)+: m/z=373.0.

reactant | 2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenoxy}ethanol | ClC1=NC=C(C(=N1)NC=1C=C(OCCO)C=CC1)Cl | C12H11Cl2N3O2
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
product | 3-[(5-Chloro-4-{[3-(2-hydroxyethoxy)phenyl]amino}pyrimidin-2-yl)amino]phenol | 34% yield | ClC=1C(=NC(=NC1)NC=1C=C(C=CC1)O)NC1=CC(=CC=C1)OCCO | C18H17ClN4O3
